US07449475B2
N-(4-Chloro-2-hydroxyphenyl)acetamide
To a suspension of 2-amino-5-chlorophenol (1.01 g, 7.0 mmol) in methanol (10 mL) was added acetic anhydride (1.08 g, 10.55 mmol) and the reaction mixture was stirred at room temperature for 30 min. The volatiles were removed in vacuo and the residue was purified by silica gel flash chromatography (hexane:ethyl acetate 5:2) to give the subtitled compound (1.19 g).

reactant | 2-amino-5-chlorophenol | 7.0 mmol, 1.01 g | NC1=C(C=C(C=C1)Cl)O | C6H6ClNO
reactant | acetic anhydride | 10.55 mmol, 1.08 g | C(C)(=O)OC(C)=O | C4H6O3
solvent | methanol | 10 mL | CO | CH4O
product | N-(4-Chloro-2-hydroxyphenyl)acetamide | 1.19 g | ClC1=CC(=C(C=C1)NC(C)=O)O | C8H8ClNO2
